### PR TITLE
[Merged by Bors] - chore: adaptations for the multi-goal linter

### PR DESCRIPTION
**Pull request by grunweg**
---

I really don't care which colour we paint this bikeshed in - if you prefer fixing this in a different style, I'm all ears!

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/BoxIntegral/Basic.lean [hunk 1]
```diff
@@ -690,7 +690,8 @@ theorem integrable_of_bounded_and_ae_continuousWithinAt [CompleteSpace E] {I : B
       simpa only [edist_le_ofReal (le_of_lt ε₁0), dist_eq_norm, hJ.1] using ineq.trans (hr x hx)
     refine (norm_sum_le _ _).trans <| (sum_le_sum this).trans ?_
     rw [← sum_mul]
-    trans μ.toBoxAdditive I * ε₁; swap; linarith
+    trans μ.toBoxAdditive I * ε₁; swap
```
Comment (grunweg) [inline Mathlib/Analysis/BoxIntegral/Basic.lean:693]: This "swap and handle side goal idiom" could also be replaced by "pick_goal 2 => linarith" or similar. Just tell me your favourite bikeshed colour :-)

File: Mathlib/CategoryTheory/FiberedCategory/HomLift.lean [hunk 2]
```diff
@@ -113,7 +113,7 @@ lemma of_commSq {R S : 𝒮} {a b : 𝒳} (f : R ⟶ S) (φ : a ⟶ b) (ha : p.o
 instance comp {R S T : 𝒮} {a b c : 𝒳} (f : R ⟶ S) (g : S ⟶ T) (φ : a ⟶ b)
     (ψ : b ⟶ c) [p.IsHomLift f φ] [p.IsHomLift g ψ] : p.IsHomLift (f ≫ g) (φ ≫ ψ) := by
   apply of_commSq
-  rw [p.map_comp]
+  on_goal 1 => rw [p.map_comp]
```
Comment (grunweg) [inline Mathlib/CategoryTheory/FiberedCategory/HomLift.lean:116]: The line below applies to both goals; this rw just massages the first into the suitable form.

File: Mathlib/Combinatorics/Additive/Corner/Roth.lean [hunk 3]
```diff
@@ -87,13 +87,14 @@ theorem corners_theorem (ε : ℝ) (hε : 0 < ε) (hG : cornersTheoremBound ε 
     positivity
   have := noAccidental hA
   rw [Nat.floor_lt' (by positivity), inv_pos_lt_iff_one_lt_mul'] at hG
+  swap
```
Comment (grunweg) [inline Mathlib/Combinatorics/Additive/Corner/Roth.lean:90]: This is a positivity side goal: it feels clearer to me to solve that first.

File: Mathlib/CategoryTheory/FiberedCategory/HomLift.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/CategoryTheory/FiberedCategory/HomLift.lean:116]: I think this is obscure enough that it warrants a comment in the code. I would never have guessed that behaviour if I had to fix this proof because it broke for unrelated reasons.

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/CategoryTheory/FiberedCategory/HomLift.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/CategoryTheory/FiberedCategory/HomLift.lean:117]: Sure, I've added a comment to this instance and the four other places with similar logic.

**Comment by grunweg** [comment]
bors merge

**Comment by grunweg** [comment]
If anybody feels like tweaking the comments from the last commit, feel free to propose a follow-up; I'll be happy to review it.
